US07781673B2
Synthesis of 4,4-Dihexyl-4H-cyclopenta[2,1-b;3,4-b′]dithiophene
4H-Cyclopenta[2,1-b;3,4-b′]dithiophene (1.5 g, 0.00843 mol) was dissolved in DMSO (50 mL). The solution was purged with nitrogen, and grounded KOH (1.89 g, 0.0337 mol) and sodium iodide (50 mg) were added, followed by hexyl bromide (3.02 g, 0.0169 mol). The reaction was stirred for 17 h under nitrogen at room temperature. Water was added and the reaction was extracted with t-butyl-methyl ether. The organic layer was separated and dried over magnesium sulfate. Solvent was removed under vacuum and the residue was purified by chromatography using hexanes as eluent. Fractions containing pure 4,4-dixeyl-4H-cyclopenta[2,1-b;3,4-b′]dithiophene product were combined and the solvents evaporated. The product was obtained as a colorless oil. Yield: 2.36 g (81%).

reactant | 4H-Cyclopenta[2,1-b;3,4-b′]dithiophene | 0.00843 mol, 1.5 g | S1C2=C(C=C1)CC1=C2SC=C1 | C9H6S2
reactant | KOH | 0.0337 mol, 1.89 g | [OH-].[K+]
reactant | sodium iodide | 50 mg | [I-].[Na+]
reactant | hexyl bromide | 0.0169 mol, 3.02 g | C(CCCCC)Br | C6H13Br
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 4,4-Dihexyl-4H-cyclopenta[2,1-b;3,4-b′]dithiophene | C(CCCCC)C1(C2=C(SC=C2)C=2SC=CC21)CCCCCC | C21H30S2
